US04179579
In contact with triphenylphosphine rhodium chloride [RhCl (PPh3)3 ] catalyst, 3,7,11-trimethyl-7,10-dodecadien-1-yn-3-ol was refluxed in benzene for 3 hours. The reaction mixture was concentrated and purified by column chromatography (developer system: benzene-chloroform=1:1). Analysis of the product by gel permeation chromatography showed that the starting material had substantially reacted to yield 2,6,10,15,19,23-hexamethyl-2,6,11,18,22-tetracosapentaen-13-yn-10,15-diol (94% selectivity). The resulting acetylenic diol was hydrogenated in n-hexane and in contact with 5% palladium-on-carbon at room temperature and elevated pressure of 80-100 kg/cm2 to yield 2,6,10,15,19,23-hexamethyltetracosa-10,15-diol (bp. 218°-220° C./0.2 mm Hg). This product was subjected to hydrogenolysis in acetic acid in contact with palladium-on-carbon at a hydrogen pressure of 100 kg/cm2 and at a reaction temperature of 170°-190° C. The resultant compound was analyzed by gas chromatography and nuclear magnetic resonance spectroscopy and the data conformed with a standard sample of squalene.

reactant | 3,7,11-trimethyl-7,10-dodecadien-1-yn-3-ol | CC(C#C)(CCCC(=CCC=C(C)C)C)O | C15H24O
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | triphenylphosphine rhodium chloride | [Rh](Cl)(Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2,6,10,15,19,23-hexamethyl-2,6,11,18,22-tetracosapentaen-13-yn-10,15-diol | 94% | CC(C)=CCCC(=CCCC(C=CC#CC(CCC=C(CCC=C(C)C)C)(O)C)(O)C)C | C30H48O2
